US07772253B2
3-(tert-Butyl-dimethyl-silanyloxy)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2-fluoro-phenol
To a solution of 2-(tert-butyl-dimethyl-silanyloxy)-4-(tert-butyl-dimethyl-silanyloxymethyl)-1-fluoro-benzene (23.70 g, 63.9 mmol, 1.0 eq.) in anhydrous THF (130 mL) was added at −78° C. under Ar a solution of sec-BuLi (54.5 mL, 71.6 mmol, 1.1 eq., 1.3 M solution in hexane) within 30 min. Then a solution of trimethyl borate (7.13 mL, 6.64 g, 63.9 mmol, 1.0 eq.) in anhydrous THF (30 mL) was added slowly within 30 min and the cooling bath removed. A solution of conc. acetic acid (5.49 mL, 5.76 g, 95.9 mmol, 1.5 eq.) was slowly added followed by addition of 35% hydrogen peroxide (6.28 mL, 2.39 g, 70.3 mmol, 1.1 eq.) and the reaction mixture kept at 0° C. for 30 min. After stirring at rt for an additional 4 h, the reaction was extracted with diethyl ether (2×100 mL) and the combined organic phases washed with a solution of 10% sodium hydroxide (2×100 mL) and a sat. solution of sodium chloride (2×100 mL). The organic phase was dried over Na2SO4, concentrated by evaporation under reduced pressure and the crude material purified with column chromatography on silica eluting with hexane/ethyl acetate (19:1) providing 15.80 g (64%) of the title compound. 1H NMR (400 MHz, CDCl3): δ0.00 (s, 6H), 0.10 (s, 6H), 0.85 (s, 9H), 0.91 (s, 9H), 4.50 (s, 2H), 4.93 (br s, 1H), 6.37 (d, J=5.6 Hz, 1H), 6.47 (d, J=5.6 Hz, 1H). MS: 329.2 [M-tert-Bu]+.

reactant | 2-(tert-butyl-dimethyl-silanyloxy)-4-(tert-butyl-dimethyl-silanyloxymethyl)-1-fluoro-benzene | 63.9 mmol, 23.70 g, 1.0 eq. | C(C)(C)(C)[Si](OC1=C(C=CC(=C1)C(O[SiH2]C(C)(C)C)(C)C)F)(C)C | C19H35FO2Si2
reactant | sec-BuLi | 71.6 mmol, 1.3 M, 54.5 mL, 1.1 eq. | [Li]C(C)CC
reactant | trimethyl borate | 63.9 mmol, 7.13 mL, 6.64 g, 1.0 eq. | B(OC)(OC)OC | C3H9BO3
reactant | acetic acid | 95.9 mmol, 5.49 mL, 5.76 g, 1.5 eq. | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 70.3 mmol, 6.28 mL, 2.39 g, 1.1 eq. | OO | H2O2
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 3-(tert-Butyl-dimethyl-silanyloxy)-5-(tert-butyl-dimethyl-silanyloxymethyl)-2-fluoro-phenol | 15.80 g, 64% | C(C)(C)(C)[Si](OC=1C(=C(C=C(C1)C(O[SiH2]C(C)(C)C)(C)C)O)F)(C)C | C19H35FO3Si2
